US20010049385A1
A 1.0 M solution of lithium aluminum hydride in THF (25 ml, 25 mmol) was added to a solution of crude 2-phenoxybenzoic acid methyl ester (5.23 g, 22.9 mmol) in THF. The reaction mixture was stirred for 2.5 hours at room temperature. Methanol (10 ml) was added carefully. THF (50 ml) was added. Magnesium sulphate was added. The solids were filtered off. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using ethyl acetate/heptane (1:1) as eluent, to give 4.08 g of 2-phenoxybenzylalcohol.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-phenoxybenzoic acid methyl ester | 22.9 mmol, 5.23 g | COC(C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C14H12O3
reactant | Methanol | 10 ml | CO | CH4O
reactant | Magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 mmol, 25 ml | C1CCOC1 | C4H8O
product | 2-phenoxybenzylalcohol | 4.08 g | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
